US05171471
2) Synthesis of 4-(5-n-nonyl-1,3-dioxane-2-yl)benzoyl chloride
A solution of 2-(4-carboxyphenyl)-5-n-nonyl-1,3-dioxane (2.00 g) in thionyl chloride (10 g) was heated under refluxing for 4 hours with a small amount of N,N-dimethylformamide. Excessive amount of thionyl chloride was distilled to obtain the titled compound.

reactant | 2-(4-carboxyphenyl)-5-n-nonyl-1,3-dioxane | 2.00 g | C(=O)(O)C1=CC=C(C=C1)C1OCC(CO1)CCCCCCCCC | C20H30O4
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 10 g | S(=O)(Cl)Cl | Cl2OS
product | 4-(5-n-nonyl-1,3-dioxane-2-yl)benzoyl chloride | C(CCCCCCCC)C1COC(OC1)C1=CC=C(C(=O)Cl)C=C1 | C20H29ClO3
